US03984465
Step E: 2,2-Dimethyl-3-phenyl-5-hydroxy-6,7-dichloro-1-indanone
A stirred mixture of 2,2-dimethyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone (6.5 g., 0.02 mole) and pyridine hydrochloride (60 g.) is heated at 180° C. for two hours, then poured into water (800 ml.). The 2,2-dimethyl-3-phenyl-5-hydroxy-6,7-dichloro-1-indanone which separate (5.10 g.) melts at 259°-262° C. after recrystallization from ethanol:water, 2:1.

reactant | 2,2-dimethyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone | 0.02 mole, 6.5 g | CC1(C(C2=C(C(=C(C=C2C1C1=CC=CC=C1)OC)Cl)Cl)=O)C | C18H16Cl2O2
reactant | pyridine hydrochloride | 60 g | Cl.N1=CC=CC=C1
solvent | water | 800 ml | O | H2O
product | 2,2-Dimethyl-3-phenyl-5-hydroxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1C1=CC=CC=C1)O)Cl)Cl)=O)C | C17H14Cl2O2
